US07709598B2
A reaction vessel was fed with 6.35 g of ice and 20 g of sulfuric acid, and cooled to 20° C. Then, 30 g of glacial acetic acid was fed, 41 g of ammonium persulfate were added at 25° C. or lower. After cooling this mixture to 15° C., a mixture of 21.8 g of 4-iodo toluene and 36.8 g of toluene were added dropwise over 2 hours, while keeping the temperature of the solution at 20° C. After stirring at 20° C. for 15 hours, 135 g of water with 35% in mass of sodium chloride was added, the deposited solid product was filtered and washed with saturated sodium chloride water, followed by water washing. After further washing with toluene and hexane, the solid was dried under reduced pressure. By recrystallization from acetone, 15.9 g of di-p-tolyl iodonium chloride were obtained as pale yellow crystals (yield: 46%).

reactant | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonium persulfate | 41 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | 4-iodo toluene | 21.8 g | IC1=CC=C(C=C1)C | C7H7I
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 135 g | O | H2O
solvent | toluene | 36.8 g | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 30 g | C(C)(=O)O | C2H4O2
product | di-p-tolyl iodonium chloride | 15.9 g | [Cl-].C1(=CC=C(C=C1)[I+]C1=CC=C(C=C1)C)C | InChI=1S/C14H14I.ClH/c1-11-3-7-13(8-4-11)15-14-9-5-12(2)6-10-14;/h3-10H,1-2H3;1H/q+1;/p-1
